US06015826
3-(2,6-dichlorophenyl)-5-(5-bromo-3,4-dichlorothien-2-yl)-1-methyl[1,2,4]triazole (Compound 46)
n-Butyllithium (2.5 mmol) was slowly added to a solution of 3-(2,6-dichlorophenyl)-5-(3,4,5-trichlorothien-2-yl)-1-methyl[1,2,4]triazole (325 mg, 1.0 mmol) in THF at -78° C., and the mixture was stirred one hour. Bromine (3.0 mmol) was added and the reaction stirred two hours, then diluted with water, extracted with ether, washed with brine, and dried over magnesium sulfate. The product was concentrated to 620 mg of dark oil. This was chromatographed (SiO2, 10% EtOAc-Hex) to give 79 mg of the title product as a pink solid. MP 197-199° C.

reactant | n-Butyllithium | 2.5 mmol | C(CCC)[Li]
reactant | 3-(2,6-dichlorophenyl)-5-(3,4,5-trichlorothien-2-yl)-1-methyl[1,2,4]triazole | 1.0 mmol, 325 mg | ClC1=C(C(=CC=C1)Cl)C1=NN(C(=N1)C=1SC(=C(C1Cl)Cl)Cl)C | C13H6Cl5N3S
reactant | Bromine | 3.0 mmol | BrBr | Br2
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-(2,6-dichlorophenyl)-5-(5-bromo-3,4-dichlorothien-2-yl)-1-methyl[1,2,4]triazole | 79 mg | ClC1=C(C(=CC=C1)Cl)C1=NN(C(=N1)C=1SC(=C(C1Cl)Cl)Br)C | C13H6BrCl4N3S
